US06821927B1
N-(Acetyloxy)-2-(2-{[6-(2-chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy}phenyl)-2-(methoxyimino)-N-methylacetamide
0.12 g (0.0012 mol) of triethylamine is initially added to a mixture of 0.4 g (0.0009 mol) of 2-(2-{[6-(2-chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy}phenyl)-N-hydroxy-2-(methoxyimino)-N-methylacetamide in 20 ml of tetrahydrofuran, and 0.08 g (0.00099 mol) of acetyl chloride is then added and the mixture is stirred at room temperature for 1 hour. The reaction mixture is poured into 100 ml of water and extracted 3 times with in each case 50 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel using cyclohexane/ethyl acetate (4:1). This gives 0.18 g (41.1% of theory) of N-(acetyloxy)-2-(2-{[6-(2-chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy} phenyl)-2-(methoxyimino)-N-methylacetamide.

reactant | triethylamine | 0.0012 mol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2-{[6-(2-chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy}phenyl)-N-hydroxy-2-(methoxyimino)-N-methylacetamide | 0.0009 mol, 0.4 g | ClC1=C(OC2=C(C(=NC=N2)OC2=C(C=CC=C2)C(C(=O)N(C)O)=NOC)F)C=CC=C1 | C20H16ClFN4O5
reactant | acetyl chloride | 0.00099 mol, 0.08 g | C(C)(=O)Cl | C2H3ClO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(Acetyloxy)-2-(2-{[6-(2-chlorophenoxy)-5-fluoro-4-pyrimidinyl]oxy}phenyl)-2-(methoxyimino)-N-methylacetamide | C(C)(=O)ON(C(C(=NOC)C1=C(C=CC=C1)OC1=NC=NC(=C1F)OC1=C(C=CC=C1)Cl)=O)C | C22H18ClFN4O6
